US06518277B1
2-Amino-N-(2-chlorophenyl)-3-trifluoromethylbenzamide (1m)
Prepared according to Procedure A using 3-trifluoromethylanthranilic acid (2.0 g, 9.75 mmol) and SOCl2 (1.8 mL, 24.4 mmol) in benzene (50 mL), followed by 2-chloroaniline (2.1 mL, 19.5 mmol) and CHCl3 (50 mL). The product was purified by recrystallization from MeOH to provide 2.38 g yellow crystals (78%). 1H NMR (CDCl3) δ: 8.40 (dd, J=1.4, 8.3 Hz, 1H); 8.25 (br s, 1H); 7.71 (d, J=7.8 Hz, 1H); 7.60 (d, J=7.8 Hz, 1H); 7.43 (dd, J=1.4, 8.0 Hz, 1H); 7.34 (dt, J=1.3, 7.9 Hz, 1H); 7.11 (dt, J=1.5, 7.7 Hz, 1H); 6.77 (t, J=7.8 Hz, 1H); 6.24 (br s, 2H). MS (ES): m/z 315.0 (M+).

reactant | 3-trifluoromethylanthranilic acid | 9.75 mmol, 2.0 g | FC(C1=C(C(C(=O)O)=CC=C1)N)(F)F | C8H6F3NO2
reactant | SOCl2 | 24.4 mmol, 1.8 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-chloroaniline | 19.5 mmol, 2.1 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 2-Amino-N-(2-chlorophenyl)-3-trifluoromethylbenzamide | 2.38 g, 78% | NC1=C(C(=O)NC2=C(C=CC=C2)Cl)C=CC=C1C(F)(F)F | C14H10ClF3N2O
